US04616014
A mixture of 5-methyl-3-methylthio-6-phenyl-1,2,4-triazine (4.15 g) and p-chloroaniline (4.22 g) was heated at 150° to 160° C. for 18 hours. After cooling, the resulting solid was washed successively with ethyl acetate, chloroform and methanol, and then dried to give 3-(4-chloroanilino)-5-methyl-6-phenyl-1,2,4-triazine (4.26 g).

reactant | 5-methyl-3-methylthio-6-phenyl-1,2,4-triazine | 4.15 g | CC=1N=C(N=NC1C1=CC=CC=C1)SC | C11H11N3S
reactant | p-chloroaniline | 4.22 g | ClC1=CC=C(N)C=C1 | C6H6ClN
product | 3-(4-chloroanilino)-5-methyl-6-phenyl-1,2,4-triazine | 4.26 g | ClC1=CC=C(NC=2N=NC(=C(N2)C)C2=CC=CC=C2)C=C1 | C16H13ClN4
